US09056874B2
(±)-Methyl 3-(5-cyano-1H-benzo[d]imidazol-2-yl)-3-(5-methoxy-7-methyl-1H-indol-4-yl)-2-methylpropanoate (diastereomer A)
The title compound was synthesized from (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-3-methoxy-2-methyl-3-oxopropyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-3-methoxy-2-methyl-3-oxopropyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate as a single diastereomer (diastereomer A, tr=16.9 min from Example 147-A) following the procedure shown in Example 142-C. MS (ESI+) m/z 403.0 (M+H).

reactant | (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-3-methoxy-2-methyl-3-oxopropyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C(C(=O)OC)C)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1 | C34H44N4O6Si
reactant | (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-3-methoxy-2-methyl-3-oxopropyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C=1C=CC2=C(N(C(=N2)C(C(C(=O)OC)C)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C1 | C34H44N4O6Si
product | (±)-Methyl 3-(5-cyano-1H-benzo[d]imidazol-2-yl)-3-(5-methoxy-7-methyl-1H-indol-4-yl)-2-methylpropanoate | C(#N)C1=CC2=C(NC(=N2)C(C(C(=O)OC)C)C2=C3C=CNC3=C(C=C2OC)C)C=C1 | C23H22N4O3
